US04665181
Step (d), Production of Trans 7-[2-(4-Methoxyphenyl)ethenyl-1-(2H)-phthalazinone
To 260 mg (0.92 mmol) 6-p-methoxystyryl-3-hydroxyphthalide dissolved in 25 ml of 95% EtOH was added 0.2 ml (4.1 mmol) of hydrazine and the yellow solution was heated at reflux for 11/4 hours. The solution was allowed to cool to RT, finally in ice, and the solid which had formed was collected, washed well with cold 95% EtOH and air dried; yield of pale yellow crystals 0.13 g (50.8%): m.p. 267°-269°.

reactant | 6-p-methoxystyryl-3-hydroxyphthalide | 0.92 mmol, 260 mg | COC1=CC=C(C=CC2=CC=C3C(OC(=O)C3=C2)O)C=C1 | C17H14O4
reactant | hydrazine | 4.1 mmol, 0.2 ml | NN | H4N2
reactant | EtOH | 25 ml | CCO | C2H6O
product | 2-(4-Methoxyphenyl)ethenyl-1-(2H)-phthalazinone | COC1=CC=C(C=C1)C=CN1C(C2=CC=CC=C2C=N1)=O | C17H14N2O2
